US06329389B1
Diethyl 2[(5-chloro-2-nitrophenyl)methylidene )malonate
Potassium hydrogen carbonate (8.12 g) was added to an acetic acid anhydride (18 ml) solution of 5-chloro-2-nitrobenzaldehyde (9.99 g) and diethyl malonate (8.64 g), which was stirred at 110° C. for 2 hours. The reaction mixture was added to iced-water and extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, then dried and concentrated. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/10) to obtain the entitled compound (15.10 g). 1H-NMR δ: 1.10(3H, t), 1.36(3H, t), 4.15(2H, q), 4.44(2H, q), 7.42(1H, d), 7.52(1H, dd), 8.11(1H, s), 8.18(1H, d).

reactant | Potassium hydrogen carbonate | 8.12 g | C(O)([O-])=O.[K+]
reactant | acetic acid anhydride | 18 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-chloro-2-nitrobenzaldehyde | 9.99 g | ClC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4ClNO3
reactant | diethyl malonate | 8.64 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | water | O | H2O
product | Diethyl 2[(5-chloro-2-nitrophenyl)methylidene )malonate | 15.10 g | ClC=1C=CC(=C(C1)C=C(C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C14H14ClNO6
